US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.1 g.), conc. hydrochloric acid (1.35 g.), tetrahydrofuran (23.0 ml.), and methanol (23.0 ml.) was stirred at room temperature for 6.5 hours. After concentrating the resultant solution in vacuo, methanol (50 ml.) was added to the residue. After concentrating the solution to a half volume of the initial, the precipitates were collected by filtration, washed with diethyl ether and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 0.71 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCOC=O | C19H17N7O8S4
reactant | hydrochloric acid | 1.35 g | Cl | ClH
reactant | tetrahydrofuran | 23.0 ml | O1CCCC1 | C4H8O
solvent | methanol | 23.0 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 0.71 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCO | InChI=1S/C17H17N7O6S4.ClH/c18-16-20-8(5-32-16)9(23-30-2-1-25)12(26)21-10-13(27)24-11(15(28)29)7(3-31-14(10)24)4-33-17-22-19-6-34-17;/h5-6,10,14,25H,1-4H2,(H2,18,20)(H,21,26)(H,28,29);1H/t10?,14-;/m1./s1
